* C:\users\fabri\Mis Documentos\TC2\git\tc2\LTspice\TS13\Bessel_PB_ord3_i5.asc
V1 N001 0 AC 1 0 Rser=50
L1 N002 N001 {L1}
L2 N003 N002 {L2}
C1 N002 0 {C1}
R2 N003 0 {R}
.param f = 1e6*sqrt(15)/(2*pi)
.param wo = 2*pi*f
.param R = 50
.param C1 = 0.5527/(wo*R)
.param L1 = (1.255*R)/wo
.param L2 = (0.192*R)/wo
.net I(R2) V1
.ac dec 100 {f*0.1} {f*10}
.backanno
.end
